US05679696
A solution of methyl 3-cyclopentyloxy-4-difluoromethoxybenzoate (0.6 g; that is prepared as described in Reference Example 41) in methanol (10 mL) is treated with potassium carbonate (0.35 g) and water (4 mL), and then it is heated at reflux for 3 hours. Methanol is evaporated off under reduced pressure, and the residue is dissolved in water (40 mL). The solution is washed with diethyl ether (40 mL), acidified with concentrated hydrochloric acid, and extracted with ethyl acetate (3×40 mL). The combined ethyl acetate extracts are dried over magnesium sulfate and evaporated under reduced pressure, to give 3-cyclopentyloxy-4-difluoromethoxybenzoic acid (0.47 g), in the form of a white solid, m.p. 126°-128° C.

reactant | methyl 3-cyclopentyloxy-4-difluoromethoxybenzoate | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1OC(F)F | C14H16F2O4
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 4 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 3-cyclopentyloxy-4-difluoromethoxybenzoic acid | 0.47 g | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1OC(F)F | C13H14F2O4
